US05593993
2-chloromethyl-3- fluoropyridine hydrochloride
To a solution of 2-hydroxymethyl-3-fluoropyridine (3.43 g, 27 mmol) in dichloromethane (30 mL) cooled to -10° C. was added neat thionyl chloride (4.4 mL, 60 mmol) dropwise over 5 minutes. The resultant pale green solution was stirred at -10° C. for 3 hours followed by evaporation to dryness to provide 4.66 g (.95%) of the titled product as an off-white crystalline solid:

reactant | 2-hydroxymethyl-3-fluoropyridine | 27 mmol, 3.43 g | OCC1=NC=CC=C1F | C6H6FNO
reactant | thionyl chloride | 60 mmol, 4.4 mL | S(=O)(Cl)Cl | Cl2OS
solvent | dichloromethane | 30 mL | ClCCl | CH2Cl2
product | 2-chloromethyl-3- fluoropyridine hydrochloride | 4.66 g, .95% | Cl.ClCC1=NC=CC=C1F | InChI=1S/C6H5ClFN.ClH/c7-4-6-5(8)2-1-3-9-6;/h1-3H,4H2;1H
